US05912244
(3S,4S)-6-(4-tert-Butyidimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran (1.618 g) (see Preparation 14) and 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine (1.33 g) (see J.Org.Chem, 1971, 36, 3372) were suspended in dry 1,4-dioxane (15 ml), pyridine (0.275 ml) was added and the mixture was heated under reflux (a calcium chloride drying tube was attached to the flask) for 3 days. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic phase was separated and dried (anhydrous sodium sulphate), the solvent was removed under reduced pressure and the crude product was chromatographed on silica using. 1:99 methanol: ethyl acetate as the eluent to yield (3S,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-3-hydroxy-6-(4-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran (0.352 g) as a white solid. Found: C,58.13; H,5.00; N,5.70. C23H24N2O7S requires C,58.46; H,5.12; N,5.93%.

reactant | (3S,4S)-6-(4-tert-Butyidimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran | 1.618 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)S(=O)(=O)C1=CC2=C(OC([C@@]3([C@H]2O3)C)(C)C)C=C1 | C24H32O5SSi
reactant | 2,3-dihydro-2-methyl-3-oxo-6-hydroxypyridazine | 1.33 g | CN1N=C(C=CC1=O)O | C5H6N2O2
reactant | pyridine | 0.275 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (3S,4R)-3,4-dihydro-4-(2,3-dihydro-2-methyl-3-oxopyridazin-6-yl)oxy-3-hydroxy-6-(4-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran | 0.352 g | CN1N=C(C=CC1=O)O[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)S(=O)(=O)C2=CC=C(C=C2)O | C23H24N2O7S
